US07491735B2
Using general procedure A, 1-Boc-4-piperidone (2.52 g, 12.66 mmol) and acetic acid 4-amino-phenyl ester (Bargota, Rakesh S.; et al., Bioorg. Med. Chem. Lett., 13, 10, 2003, 1623-1626) (2.95 g, 19.52 mmol) afforded 4-(4-acetoxy-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester as a white solid (3.41 g, 76%).

reactant | 1-Boc-4-piperidone | 12.66 mmol, 2.52 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | acetic acid 4-amino-phenyl ester | 19.52 mmol, 2.95 g | NC1=CC=C(C=C1)OC(C)=O | C8H9NO2
product | 4-(4-acetoxy-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 3.41 g, 76% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)OC(C)=O | C18H26N2O4
